US06528543B1
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (147 mg, 0.44 mmol) in toluene (5 mL) with N,N-dimethylformamide (2 drops) at 25° C. was treated with oxalyl chloride (0.05 mL, 0.53 mmol). The reaction was stirred at 25° C. for 30 min. At this time, the reaction was cooled to −60° C. and treated with ammonium hydroxide (0.50 mL, 3.8 mmol). The resulting suspension was allowed to warm to 25° C. and stirred at 25° C. for 1 h. At this time, the reaction was quenched by the addition of a 2N aqueous hydrochloric acid solution (1 mL) and then extracted with diethyl ether (3×25 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 65/35 hexanes/ethyl acetate) afforded 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (130 mg, 89%) as a white foam: EI-HRMS m/e calcd for C5H20ClNO3S (M+) 329.0852, found 329.0852.

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 0.44 mmol, 147 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCCC1 | C15H19ClO4S
reactant | oxalyl chloride | 0.53 mmol, 0.05 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 3.8 mmol, 0.50 mL | [OH-].[NH4+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 130 mg, 89% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)N)CC1CCCC1 | C15H20ClNO3S
